US04214002
N-Carboethoxy-2-chloroacetoacetamide
The N-carbethoxyacetoacetamide (12.7 g from above reaction) was dissolved in methylene chloride (50 ml) and cooled in an ice bath. Sulfuryl chloride (10.0 g) was added dropwise to the reaction mixture. After refluxing for 45 minutes the solvent was evaporated under reduced pressure. The resulting colorless oil crystallized over night to give 15.2 g (99%) colorless product. An analytical sample recrystallized from CHCl3 /cyclohexane had mp 69.5°-70.0°; ir (Nujol) 3200, 1760 (broad), 1540 cm-1 ; nmr (CDCl3) 1.35 (t, 3H, J=7), 2.45 (s, 3H), 4.30 (q, 2H, J=7), 5.75 (s, 1H), 9.0 (s, 1H),; and mass spectrum m/e 43 (100%) and 207 (M+).

reactant | N-carbethoxyacetoacetamide | 12.7 g | C(=O)(OCC)NC(CC(=O)C)=O | C7H11NO4
reactant | Sulfuryl chloride | 10.0 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-Carboethoxy-2-chloroacetoacetamide | 15.2 g, 99% | C(=O)(OCC)NC(C(C(=O)C)Cl)=O | C7H10ClNO4
